US08440651B2
2-Chloro-4-morpholinopyrido[3,2-d]pyrimidine-6-carboxamide (90 mg) was suspended in toluene (5 mL) and treated with 1,1-dimethoxy-N,N-dimethylmethanamine (11 eq). The reaction was heated at 95° C. overnight then concentrated to dryness to afford crude (E)-2-chloro-N-((dimethylamino)methylene)-4-morpholinopyrido[3,2-d]pyrimidine-6-carboxamide. This intermediate was subsequently brought up in acetic acid (1.4 mL), isopropyl hydrazine hydrochloride was added and the reaction was stirred at room temperature for 1 hour. The reaction was concentrated to dryness then extracted with DCM and a saturated bicarbonate solution. The organic layer was dried (Mg2SO4), filtered and concentrated to give 0.11 g crude 4-(2-chloro-6-(1-isopropyl-1H-1,2,4-triazol-5-yl)pyrido[3,2-d]pyrimidin-4-yl)morpholine.

reactant | 2-Chloro-4-morpholinopyrido[3,2-d]pyrimidine-6-carboxamide | 90 mg | ClC=1N=C(C2=C(N1)C=CC(=N2)C(=O)N)N2CCOCC2 | C12H12ClN5O2
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 11 eq | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-2-chloro-N-((dimethylamino)methylene)-4-morpholinopyrido[3,2-d]pyrimidine-6-carboxamide | ClC=1N=C(C2=C(N1)C=CC(=N2)C(=O)/N=C/N(C)C)N2CCOCC2 | C15H17ClN6O2
